US07091247B2
3′-{-({2-[4-(Aminosulfonyl)phenyl]ethyl}[(E)-3-phenyl-2-propenoyl]amino)methyl}-N-[2-(1-pyrrolidinyl)ethyl][1,1′-biphenyl]-3-carboxamide hydrochloride
3′-{({2-[4-(Aminosulfonyl)phenyl]ethyl}[(E)-3-phenyl-2-propenoyl]amino)methyl}-N-[2-(1-pyrrolidinyl)ethyl][1,1′-biphenyl]-3-carboxamide (200 mg) was treated with 4 N hydrogen chloride in ethyl acetate to give the title compound (198 mg).

reactant | 3′-{({2-[4-(Aminosulfonyl)phenyl]ethyl}[(E)-3-phenyl-2-propenoyl]amino)methyl}-N-[2-(1-pyrrolidinyl)ethyl][1,1′-biphenyl]-3-carboxamide | 200 mg | NS(=O)(=O)C1=CC=C(C=C1)CCN(C(\C=C\C1=CC=CC=C1)=O)CC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)NCCN1CCCC1 | C37H40N4O4S
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3′-{-({2-[4-(Aminosulfonyl)phenyl]ethyl}[(E)-3-phenyl-2-propenoyl]amino)methyl}-N-[2-(1-pyrrolidinyl)ethyl][1,1′-biphenyl]-3-carboxamide hydrochloride | 198 mg | Cl.NS(=O)(=O)C1=CC=C(C=C1)CCN(C(\C=C\C1=CC=CC=C1)=O)CC=1C=C(C=CC1)C1=CC(=CC=C1)C(=O)NCCN1CCCC1 | InChI=1S/C37H40N4O4S.ClH/c38-46(44,45)35-17-14-30(15-18-35)20-24-41(36(42)19-16-29-8-2-1-3-9-29)28-31-10-6-11-32(26-31)33-12-7-13-34(27-33)37(43)39-21-25-40-22-4-5-23-40;/h1-3,6-19,26-27H,4-5,20-25,28H2,(H,39,43)(H2,38,44,45);1H/b19-16+;
